US04743610
2-Amino-4-chloro-N-[3-(3-pyridinyl)propyl]benzamide
A mixture of 3.43 g of 4-chloroanthranilic acid, 3.24 g of N,N'-carbonyldiimidazole and 50 ml of tetrahydrofuran was stirred at 5°-25° C. for 3 hours and 4.18 g of 3-(3-pyridinyl)propylamine dihydrochloride was added. The reaction mixture was stirred at room temperature for 18 hours, heated at reflux temperature for one hour and then with 10 ml of water for 30 minutes. The mixture was concentrated and treated with 100 ml. of methylene chloride and 10 ml of 1N sodium hydroxide. The layers were separated and the organic layer was washed with water, dried over magnesium sulfate and concentrated. The residue was recrystallized from ethyl acetate and the desired product, mp 145°-147° C. was obtained.

reactant | 4-chloroanthranilic acid | 3.43 g | ClC=1C=C(C(C(=O)O)=CC1)N | C7H6ClNO2
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | 3-(3-pyridinyl)propylamine dihydrochloride | 4.18 g | Cl.Cl.N1=CC(=CC=C1)CCCN
solvent | water | 10 ml | O | H2O
product | 2-Amino-4-chloro-N-[3-(3-pyridinyl)propyl]benzamide | NC1=C(C(=O)NCCCC=2C=NC=CC2)C=CC(=C1)Cl | C15H16ClN3O
